US05461036
2-Hydroxyhexadecanoic acid (1 g) was dissolved in pyridine, and acetic anhydride (0.62 g) was added to the solution in an ice bath. After 12 hours, the reaction mixture was distributed into chloroform and water, and the chloroform layer was concentrated to give 2-acetoxyhexadecanoic acid (1.10 g). To 2-acetoxyhexadecanoic acid (0.50 g) dissolved in N,N-dimethylformamide (DMF) were added para-nitrophenol (0.22 g) and N,N'-dicyclohexylcarbodiimide (0.33 g), and the mixture was stirred for 8 hours. The reaction mixture was filtered, and 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (0.61 g) and triethylamine (2.0 ml) were added to the filtrate. The mixture was stirred for 12 hours.

reactant | 2-Hydroxyhexadecanoic acid | 1 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | acetic anhydride | 0.62 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-acetoxyhexadecanoic acid | 1.10 g | C(C)(=O)OC(C(=O)O)CCCCCCCCCCCCCC | C18H34O4
